US07291631B2
Using General Procedure B: Reaction of 2-[1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]-ethylamine and 3,5-dimethyl-pyridine-2-carbaldehyde in CH2Cl2 with NaBH(OAc)3 gave (3,5-dimethyl-pyridin-2-ylmethyl)-{2-[1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]-ethyl}-amine.

reactant | 2-[1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]-ethylamine | C1(=CC=C(C=C1)S(=O)(=O)N1C=NC(=C1)CCN)C | C12H15N3O2S
reactant | 3,5-dimethyl-pyridine-2-carbaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3,5-dimethyl-pyridin-2-ylmethyl)-{2-[1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]-ethyl}-amine | CC=1C(=NC=C(C1)C)CNCCC=1N=CN(C1)S(=O)(=O)C1=CC=C(C=C1)C | C20H24N4O2S
